US04851526
3-(Morpholin-4-yl)-1-butanol methanesulfonate
To 100 mL of acetonitrile is added 15.9 g (0.1 mol) of 3-(morpholin-4-yl)-1-butanol and 18.4 g (0.1 mol) of methanesulfonic anhydride. Reflux the reaction and monitor by thin-layer chromatography. Upon completion remove the solvent in vacuo and add saturated aqueous sodium bicarbonate and methylene chloride. Dry the organic phase over Na2SO4. Filter off the drying agent and evaporate the solvent in vacuo to obtain the title compound.

reactant | 3-(morpholin-4-yl)-1-butanol | 0.1 mol, 15.9 g | N1(CCOCC1)C(CCO)C | C8H17NO2
reactant | methanesulfonic anhydride | 0.1 mol, 18.4 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 3-(Morpholin-4-yl)-1-butanol methanesulfonate | CS(=O)(=O)OCCC(C)N1CCOCC1 | C9H19NO4S
